US09216993B2
To a solution of 39 mg of 5-methyl-1H-indole-2-carbonitrile (0.25 mmol) in 0.5 mL of DMF 15 mg of NaH (60% in oil, 0.375 mmol) was added and mixture was stirred for 30 min. Then 170 mg of (R)-5-(chloromethyl)-2,2,3,3,8,8,9,9-octamethyl-4,7-dioxa-3,8-disiladecane (0.5 mmol) was added and stirring continued for 24 hs. The reaction mixture was diluted with 10 mL of water and extracted with DCM. Combined organic extracts dried over sodium sulfate, concentrated and purified using silica gel column eluting with hexane-ethyl acetate 50:1 to afford 56 mg of (S)-1-(2,3-bis((tert-butyldimethylsilyl)oxy)propyl)-5-methyl-1H-indole-2-carbonitrile. 1H NMR (600 MHz, CDCl3): δ 8.09 (d, 1H, J=8.8 Hz), 7.35 (s, 1H), 7.24 (d, 1H, J=8.8 Hz), 7.18 (s, 1H), 4.04 (m, 1H), 3.82 (m, 1H), 3.77 (m, 2H), 3.68 (m, 1H), 2.43 (s, 3H), 1.08 (m, 18H), 0.26 (m, 12H).

reactant | 5-methyl-1H-indole-2-carbonitrile | 0.25 mmol, 39 mg | CC=1C=C2C=C(NC2=CC1)C#N | C10H8N2
reactant | NaH | 0.375 mmol | [H-].[Na+]
reactant | (R)-5-(chloromethyl)-2,2,3,3,8,8,9,9-octamethyl-4,7-dioxa-3,8-disiladecane | 0.5 mmol, 170 mg | ClC[C@H](O[Si](C(C)(C)C)(C)C)CO[Si](C(C)(C)C)(C)C | C15H35ClO2Si2
solvent | DMF | 0.5 mL, 15 mg | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | (S)-1-(2,3-bis((tert-butyldimethylsilyl)oxy)propyl)-5-methyl-1H-indole-2-carbonitrile | 56 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CN1C(=CC2=CC(=CC=C12)C)C#N)CO[Si](C)(C)C(C)(C)C | C25H42N2O2Si2
